US08609208B2
In a reactor under an N2-atmosphere, 10.0 g (25.1 mmol) 1-(4-(bromodifluoro-methyl)-3,5-difluorophenyl)-4-propyl-2,6,7-trioxabicyclo[2.2.2]octane, 4.5 g (30 mmol) of 3,4,5-trifluorophenol, 3.5 g (25 mmol) of potassium carbonate, 2.6 g (7.5 mmol) of tetrabutylphosphonium bromide, 50 ml of H2O and 5 ml of n-heptane were added, and the mixture was refluxed at 82-85° C. for 10 hours. After being cooled to room temperature, the mixture was added with 100 ml of toluene and 100 ml of water, the organic layer was separated, and then the water layer was subjected to extraction with toluene. The organic layer was collected, washed by an aqueous solution of sodium hydrogen carbonate and water in sequence, dried over anhydrous magnesium sulfate, filtered to remove insoluble substance, and concentrated at a reduced pressure. The residue was purified by a fractionation operation utilizing column chromatography, with a mixed solvent of heptane and ethyl acetate in a volume ratio of 1:4 (ethyl acetate:heptane) as an eluent solvent and silica gel as a filler. The product was further purified by recrystallization using isopropanol/ethyl acetate in a volume ratio of 80/20, so that 5.9 g of 1-(4-(difluoro(3,4,5-trifluorophenoxy)methyl)-3,5-difluorophenyl)-4-propyl-2,6,7-trioxabicyclo[2.2.2]octane was obtained as a white solid.

reactant | 1-(4-(bromodifluoro-methyl)-3,5-difluorophenyl)-4-propyl-2,6,7-trioxabicyclo[2.2.2]octane | 25.1 mmol, 10.0 g | BrC(C1=C(C=C(C=C1F)C12OCC(CO1)(CO2)CCC)F)(F)F | C15H15BrF4O3
reactant | 3,4,5-trifluorophenol | 30 mmol, 4.5 g | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | potassium carbonate | 25 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylphosphonium bromide | 7.5 mmol, 2.6 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-heptane | 5 ml | CCCCCCC | C7H16
solvent | H2O | 50 ml | O | H2O
product | 1-(4-(difluoro(3,4,5-trifluorophenoxy)methyl)-3,5-difluorophenyl)-4-propyl-2,6,7-trioxabicyclo[2.2.2]octane | 5.9 g | FC(C1=C(C=C(C=C1F)C12OCC(CO1)(CO2)CCC)F)(OC2=CC(=C(C(=C2)F)F)F)F | C21H17F7O4
